### PR TITLE
[Merged by Bors] - chore: move `Module.End`-related decls to the `Module.End` namespace

### PR DESCRIPTION
**Pull request by YaelDillies**
No deprecations, since they would clash across namespaces.

From Toric

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Algebra/Basic.lean [hunk 1]
```diff
@@ -189,23 +189,23 @@ section
 
 variable {R M}
 
-theorem End_algebraMap_isUnit_inv_apply_eq_iff {x : R}
+theorem End.algebraMap_isUnit_inv_apply_eq_iff {x : R}
```
Comment (urkud) [inline Mathlib/Algebra/Algebra/Basic.lean:192]: Adding deprecated aliases for `End_*` lemmas won't cause any harm.

File: Mathlib/Algebra/Module/LinearMap/End.lean [hunk 2]
```diff
@@ -60,18 +58,18 @@ theorem coe_one : ⇑(1 : Module.End R M) = _root_.id := rfl
 
 theorem coe_mul (f g : Module.End R M) : ⇑(f * g) = f ∘ g := rfl
 
-instance _root_.Module.End.instNontrivial [Nontrivial M] : Nontrivial (Module.End R M) := by
+instance instNontrivial [Nontrivial M] : Nontrivial (Module.End R M) := by
   obtain ⟨m, ne⟩ := exists_ne (0 : M)
   exact nontrivial_of_ne 1 0 fun p => ne (LinearMap.congr_fun p m)
 
-instance _root_.Module.End.monoid : Monoid (Module.End R M) where
+instance monoid : Monoid (Module.End R M) where
```
Comment (urkud) [inline Mathlib/Algebra/Module/LinearMap/End.lean:65]:
```suggestion
instance instMonoid : Monoid (Module.End R M) where
```

Comment (urkud) [reply Mathlib/Algebra/Module/LinearMap/End.lean:65]: (similarly, below; it's OK to say that this is out of the scope for this PR)

**Comment by urkud** [comment]
Please
- merge `master`
- update deprecation dates;

**Comment by urkud** [comment]
... then send to `bors`. Thanks!
bors d+

**Comment by YaelDillies** [comment]
I've updated the deprecations, but for future reference I really don't see the point here: The deprecation date was `2025-04-09`, and it now is `2025-04-28`. Since the month hasn't changed, they will be deleted at the same time.
